US09403773B2
5-Fluoro-3-iodo-8-propoxy-1H-quinolin-4-one (780 mg, 2.24 mmol) was suspended in a mixed solvent of toluene (10 ml) and methanol (1.6 ml), and furan-3-boronic acid (752 mg), tetrakis triphenylphosphine palladium (130 mg, 0.11 mmol), and a 2N sodium carbonate aqueous solution (2.25 ml) were added thereto in that order. The mixture was stirred under a nitrogen atmosphere at 110° C. for 20 hours. After the reaction mixture was cooled to room temperature, water was added, and the resulting mixture was extracted with dichloromethane. The organic layer was concentrated under reduced pressure, the residue was then purified by silica gel column chromatography (dichloromethane:methanol=60:1→50:1). The purified product was concentrated under reduced pressure and was recrystallized from ethanol to thereby obtain 180 mg of powdery pale yellow 5-fluoro-3-furan-3-yl-8-propoxy-1H-quinolin-4-one (yield: 58%).

reactant | 5-Fluoro-3-iodo-8-propoxy-1H-quinolin-4-one | 2.24 mmol, 780 mg | FC1=C2C(C(=CNC2=C(C=C1)OCCC)I)=O | C12H11FINO2
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | furan-3-boronic acid | 752 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 2N, 2.25 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | methanol | 1.6 ml | CO | CH4O
product | 5-fluoro-3-furan-3-yl-8-propoxy-1H-quinolin-4-one | 180 mg, yield: 58% | FC1=C2C(C(=CNC2=C(C=C1)OCCC)C1=COC=C1)=O | C16H14FNO3
